US07863444B2
5-(4-Amino-3-methoxyphenyl)-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (27 mg, 0.083 mmol) was dissolved in dichloromethane (0.8 mL). Pyridine (0.8 mL) was added followed by phenylmethanesulfonyl chloride (19 mg, 0.105 mmol). After stirring overnight, another 19 mg of phenylmethanesulfonyl chloride was added and the reaction mixture was stirred overnight. The solvent was removed and the residue was purified by preparative thin layer chromatogram eluted with dichlormethane/Methanol (95:5) to give N-[4-(4-amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]phenylmethanesulfonamide (9 mg, 0.0188 mmol). 1H NMR (DMSO-d6) δ 1.89 (m, 6H), 2.28 (m, 2H), 3.85 (s, 3H), 4.38 (s, 2H), 5.23 (m, 3H), 6.08 (bs, 1H), 6.99 (m, 2H), 7.27, (m, 2H), 7.33 (m, 3H), 7.58 (d, J=8.17 Hz, 1H), 8.34 (s, 1H). LC/MS MH+=478

reactant | 5-(4-Amino-3-methoxyphenyl)-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.083 mmol, 27 mg | NC1=C(C=C(C=C1)C1=CN(C=2N=CN=C(C21)N)C2CCCC2)OC | C18H21N5O
reactant | Pyridine | 0.8 mL | N1=CC=CC=C1 | C5H5N
reactant | phenylmethanesulfonyl chloride | 0.105 mmol, 19 mg | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
reactant | phenylmethanesulfonyl chloride | 19 mg | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
solvent | dichloromethane | 0.8 mL | ClCCl | CH2Cl2
product | N-[4-(4-amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]phenylmethanesulfonamide | 0.0188 mmol, 9 mg | NC=1C2=C(N=CN1)N(C=C2C2=CC(=C(C=C2)NS(=O)(=O)CC2=CC=CC=C2)OC)C2CCCC2 | C25H27N5O3S
